US06787653B2
By similar procedures applied in Example 2, from 3.00 g (5.19 mmol) of 1,3-bis [4-(4-bromobenzoyl)-1-piperazinyl]propane and 3.00 g (12.5 mmol) of 3,5-dimethoxy-4-propoxyphenylboronic acid, 4.20 g of 1,3-bis[4[4-(3,5-dimethoxy-4-propoxyphenyl) benzoyl]-1-piperazinyl]propane was obtained as a colorless oil (quantitative yield).

reactant | 1,3-bis [4-(4-bromobenzoyl)-1-piperazinyl]propane | 5.19 mmol, 3.00 g | BrC1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)Br)=O)C=C1 | C25H30Br2N4O2
reactant | 3,5-dimethoxy-4-propoxyphenylboronic acid | 12.5 mmol, 3.00 g | COC=1C=C(C=C(C1OCCC)OC)B(O)O | C11H17BO5
product | 1,3-bis[4[4-(3,5-dimethoxy-4-propoxyphenyl) benzoyl]-1-piperazinyl]propane | 4.20 g | COC=1C=C(C=C(C1OCCC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OCCC)OC)=O)C=C1 | C47H60N4O8
